US09447084B2
4-[5-[3,5-bis(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-N-[2-oxo-3-(2,2,2-trifluoroethyl)-1,3-diazinan-1-yl]-2-(trifluoromethyl)benzamide, Compound 90
Into a 25-mL round-bottom flask, was placed 4-[5-[3,5-bis(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid (100 mg, 0.19 mmol, 1.00 equiv), N,N-dimethylformamide (5 mL), HATU (141 mg, 0.37 mmol, 2.00 equiv), DIEA (96 mg, 0.74 mmol, 4.00 equiv), 1-amino-3-(2,2,2-trifluoroethyl)-1,3-diazinan-2-one (40 mg, 0.20 mmol, 1.10 equiv). The resulting solution was stirred for 3 h at room temperature. The resulting solution was diluted with 20 mL of water. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 1×20 mL of brine. The mixture was dried over anhydrous sodium sulfate. The residue was purified by preparative TLC (EtOAc/ether=1:2). This resulted in 34.3 mg (26%) of 4-[5-[3,5-bis(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-N-[2-oxo-3-(2,2,2-trifluoroethyl)-1,3-diazinan-1-yl]-2-(trifluoromethyl)benzamide as a white solid; (ES, m/z): [M+H]+ 719.00, 1H NMR (300 MHz, DMSO): δ 10.72 (s, 1H), 8.37 (s, 1H), 8.23 (s, 2H), 8.16-8.14 (d, J=6 Hz, 1H), 8.08 (s, 1H), 7.74-7.72 (d, 1H), 4.70-4.49 (dd, J=21 Hz, J=45 Hz, 2H), 4.17-4.11 (q, J=9 Hz, 2H), 3.58-3.54 (t, J=6 Hz, 2H), 3.48-3.45 (t, J=5.1 Hz), 2.07-2.05 (m, 2H).

reactant | 4-[5-[3,5-bis(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)benzoic acid | 0.19 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(F)(F)F)C(F)(F)F)(F)F | C20H9F12NO3
reactant | HATU | 0.37 mmol, 141 mg, 2.00 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.74 mmol, 96 mg, 4.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-amino-3-(2,2,2-trifluoroethyl)-1,3-diazinan-2-one | 0.20 mmol, 40 mg, 1.10 equiv | NN1C(N(CCC1)CC(F)(F)F)=O | C6H10F3N3O
solvent | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[5-[3,5-bis(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-N-[2-oxo-3-(2,2,2-trifluoroethyl)-1,3-diazinan-1-yl]-2-(trifluoromethyl)benzamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C(=O)NN2C(N(CCC2)CC(F)(F)F)=O)C=C1)C(F)(F)F)C(F)(F)F)(F)F | C26H17F15N4O3
